*========================================================
* AD844 CFOA SPICE MACROMODEL
* Simplified behavioral model for circuit simulation
*
* Pin order:
* 1 = Y  (Non-inverting input)
* 2 = X  (Inverting/current input)
* 3 = Z  (Current output)
* 4 = W  (Voltage output)
* 5 = V+
* 6 = V-
*
* Compatible subcircuit:
* .SUBCKT AD844 Y X Z W V+ V-
*========================================================

.SUBCKT AD844 Y X Z W VPLUS VMINUS

*--------------------------------------------------------
* PARAMETERS
*--------------------------------------------------------
.PARAM RX=50
.PARAM RZ=3MEG
.PARAM RW=10
.PARAM GAIN=1E6
.PARAM FP=5.0E6
.PARAM RO=50

*--------------------------------------------------------
* Y INPUT
* Ideal high-impedance voltage input
*--------------------------------------------------------
RY Y 0 1E12

*--------------------------------------------------------
* X NODE
* X follows Y approximately
*--------------------------------------------------------
RX1 X XINT {RX}

E_X XINT 0 Y 0 1

*--------------------------------------------------------
* Current follower:
* IZ = IX
*
* Current through RX represents input current.
*--------------------------------------------------------
FZ Z 0 RX1 1

*--------------------------------------------------------
* High impedance Z output
*--------------------------------------------------------
RZ1 Z 0 {RZ}

*--------------------------------------------------------
* Voltage amplifier from Z current
*--------------------------------------------------------
RGAIN NGAIN 0 1E6

GTRANS NGAIN 0 Z 0 1

*--------------------------------------------------------
* Dominant-pole compensation
*--------------------------------------------------------
RPOLE N1 NGAIN 1
CPOLE N1 0 {1/(2*3.14159*FP)}

*--------------------------------------------------------
* Output voltage follower
*--------------------------------------------------------
EOUT WINT 0 N1 0 {GAIN}

ROUT W WINT {RO}

*--------------------------------------------------------
* Output load / bias stabilization
*--------------------------------------------------------
RBIAS W 0 1MEG

*--------------------------------------------------------
* Supply-current paths
*--------------------------------------------------------
RVP VPLUS 0 1ME9
RVN VMINUS 0 1ME9

.ENDS AD844

*========================================================
